US05969139
A slurry of 17 mg of sodium hydride (80% dispersion in mineral oil) in 10 ml of anhydrous tetrahydrofuran was stirred at room temperature under an atmosphere of dry nitrogen and treated dropwise with a solution of 200 mg of 3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-9-(4-nitrophenyl)-1,8(2H,5H)-acridinedione in 5 ml of dimethylformamide. The mixture was then heated at reflux for 15 minutes, cooled to room temperature, treated with 44 ml of methyl chloroformate and stirred at room temperature under an atmosphere of dry nitrogen for 18 hours. The solvents were removed under reduced pressure and the resulting waxy residue was taken up in diethyl ether and the insoluble material was filtered off. The filtrate was then purified by column chromatography on silica gel using hexane/ethyl acetate (gradient: 80:20 to 50:50) as the eluent to give methyl 2,3,4,5,6,7,8,9-octahydro-3,3,6,6-tetramethyl-9-(4-nitrophenyl)-1,8-dioxo-1H-acridine-10-carboxylate as a white crystalline solid of melting point 189-190° C.

reactant | sodium hydride | 17 mg | [H-].[Na+]
reactant | 3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-9-(4-nitrophenyl)-1,8(2H,5H)-acridinedione | 200 mg | CC1(CC(C=2C(C=3C(CC(CC3NC2C1)(C)C)=O)C1=CC=C(C=C1)[N+](=O)[O-])=O)C | C23H26N2O4
reactant | methyl chloroformate | 44 ml | ClC(=O)OC | C2H3ClO2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | methyl 2,3,4,5,6,7,8,9-octahydro-3,3,6,6-tetramethyl-9-(4-nitrophenyl)-1,8-dioxo-1H-acridine-10-carboxylate | CC1(CC(C=2C(C=3C(CC(CC3N(C2C1)C(=O)OC)(C)C)=O)C1=CC=C(C=C1)[N+](=O)[O-])=O)C | C25H28N2O6
